US07723356B2
Gii) (R)-3-Hydroxy-1-[1-(isoxazol-3-ylcarbamoyl)-ethyl]-1-azonia-bicyclo[2.2.2]octane bromide
To a stirred solution of (R)-1-aza-bicyclo[2.2.2]octan-3-ol (0.267 g, 2.1 mmol) in chloroform/acetonitrile (1:1) (4 ml) is added 2-bromo-N-isoxazol-3-yl-propionamide [G(i)](0.5 g, 2.28 mmol) and the reaction mixture heated in a microwave at 90° C. for 3 hours. Purification using C-18 reverse phase column chromatography (eluent: water-acetonitrile) yields the titled compound.

reactant | (R)-1-aza-bicyclo[2.2.2]octan-3-ol | 2.1 mmol, 0.267 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | 2-bromo-N-isoxazol-3-yl-propionamide | 2.28 mmol, 0.5 g | BrC(C(=O)NC1=NOC=C1)C | C6H7BrN2O2
solvent | chloroform acetonitrile | 4 ml | C(Cl)(Cl)Cl.C(C)#N
product | (R)-3-Hydroxy-1-[1-(isoxazol-3-ylcarbamoyl)-ethyl]-1-azonia-bicyclo[2.2.2]octane bromide | [Br-].O[C@H]1C[N+]2(CCC1CC2)C(C)C(NC2=NOC=C2)=O | InChI=1S/C13H19N3O3.BrH/c1-9(13(18)14-12-4-7-19-15-12)16-5-2-10(3-6-16)11(17)8-16;/h4,7,9-11,17H,2-3,5-6,8H2,1H3;1H/t9?,10?,11-,16?;/m0./s1
